US08604038B2
1-(6-Methylpyridin-2-yl)ethanamine (i-14)
To a solution of 2-acetyl-6-methylpyridine (4.7 g, 34.8 mmol) in anhydrous methanol (100 ml) was added ammonium acetate (26.8 g, 348 mmol) and sodium cyanoborohydride (1.75 g, 27.8 mmol) and the resulting mixture stirred at RT overnight. The mixture was evaporated and the residue dissolved in water and basified by the addition of KOH and extracted with DCM (×3). The DCM layers were combined and washed with sat. NaCl, dried over MgSO4, filtered and evaporated. The residue was purified by column chromatography on silica to afford the title compound (i-14) (eluent: 5% MeOH in DCM) to give 2.8 g (59%) as a clear oil. 1H NMR (CDCl3): 1.41 (d, J6.7 Hz, 3H), 1.78 (brs, 2H), 2.54 (s, 3H), 4.21 (q, J6.7 Hz, 1H), 6.99 (d, J7.6 Hz, 1H), 7.09 (d, J7.7 Hz, 1H), 7.52 (m, 1H).

reactant | 2-acetyl-6-methylpyridine | 34.8 mmol, 4.7 g | C(C)(=O)C1=NC(=CC=C1)C | C8H9NO
reactant | ammonium acetate | 348 mmol, 26.8 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 27.8 mmol, 1.75 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-(6-Methylpyridin-2-yl)ethanamine | 5% | CC1=CC=CC(=N1)C(C)N | C8H12N2
